US08629270B2
5-Allyl-6a-(2-fluorophenyl)-3,3a,4,6-tetrahydro-1H-pyrrolo[3,4-c]isoxazole
To a solution of 2-bromo-1-(2-fluorophenyl)ethanone (10.0 g, 46.1 mmol) in ethanol (460.8 mL) is added drop wise diallyamine (9.4 g, 96.8 mmol) in ethanol (460.8 mL). The reaction is stirred for 2 hr. Pyridine is then added to the reaction (11.2 mL, 138.2 mmol) followed by the addition of hydroxylamine hydrochloride (4.8 g, 69.1 mmol). The reaction is refluxed for 4 hr and then concentrated to dryness. The residue is dissolved in toluene (230 4 mL) and is refluxed for 8 hr. The mixture is cooled to room temperature and extracted with saturated sodium bicarbonate solution. The aqueous phase is then extracted with DCM. The organic phase is concentrated and the mixture purified by silica gel chromatography eluting with hexane to 1:1 hexane/ethyl acetate to give the title compound (6.6 g, 58%). ES/MS (m/e): 248 (M+H).

reactant | 2-bromo-1-(2-fluorophenyl)ethanone | 46.1 mmol, 10.0 g | BrCC(=O)C1=C(C=CC=C1)F | C8H6BrFO
reactant | Pyridine | N1=CC=CC=C1 | C5H5N
reactant | hydroxylamine hydrochloride | 69.1 mmol, 4.8 g | Cl.NO
reactant | ethanol | 460.8 mL | C(C)O | C2H6O
reactant | ethanol | 460.8 mL | C(C)O | C2H6O
product | 5-Allyl-6a-(2-fluorophenyl)-3,3a,4,6-tetrahydro-1H-pyrrolo[3,4-c]isoxazole | 6.6 g, 58% | C(C=C)N1CC2(NOCC2C1)C1=C(C=CC=C1)F | C14H17FN2O
